US08039639B2
Step G: Preparation of (2-(1-(2,2-dimethoxyethyl)-1H-indazol-5-yloxy)-5-fluorophenyl)methanamine 68:
2-(1-(2,2-Dimethoxyethyl)-1H-indazol-5-yloxy)-5-fluorobenzonitrile (3.80 g, 11.13 mmol) in THF (100 mL) was added dropwise to a stirred 0° C. suspension of lithium aluminum hydride (0.6338 g, 16.70 mmol) in THF (100 mL). The reaction mixture was maintained at 0° C. until complete addition of the starting material was achieved. The reaction mixture was warmed to room temperature and stirred until complete consumption of starting material was seen by HPLC analysis. The reaction mixture was added dropwise to a stirred room temperature solution of saturated aqueous Rochelle's salt. The two phase mixture was rapidly stirred for 30 minutes until the aluminum salts were in solution. The layers were separated and the aqueous layer extracted with more EtOAc. The combined organics were dried (MgSO4) and concentrated under reduced pressure to afford 3.73 g (97%) of the crude product, which was used without further purification. MS (APCI+) m/z 346 (M+1) was detected. 1H NMR (400 MHz, CDCl3) δ 7.90 (s, 1H), 7.48 (d, 1H, J=9 Hz), 6.9-7.15 (m, 5H), 4.76 (t, 1H, J=5.3 Hz), 4.49 (d, 2H, J=5.3 Hz), 3.88 (s, 2H), 3.36 (s, 6H).

reactant | 2-(1-(2,2-Dimethoxyethyl)-1H-indazol-5-yloxy)-5-fluorobenzonitrile | 11.13 mmol, 3.80 g | COC(CN1N=CC2=CC(=CC=C12)OC1=C(C#N)C=C(C=C1)F)OC | C18H16FN3O3
reactant | lithium aluminum hydride | 16.70 mmol, 0.6338 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
reactant | aluminum | [Al] | Al
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (2-(1-(2,2-dimethoxyethyl)-1H-indazol-5-yloxy)-5-fluorophenyl)methanamine | 3.73 g, 97% | COC(CN1N=CC2=CC(=CC=C12)OC1=C(C=C(C=C1)F)CN)OC | C18H20FN3O3
